US05434174
A solution of 2-(di-n-propylamino)-8-methoxyacetyl-1,2,3,4-tetrahydronaphthalene (1.0 g) and tris(dimethylamino)methane (1.5 ml) in toluene (25 ml) was heated to reflux for 1.5 hours. The reaction was concentrated to give crude 2-(di-n-propylamino)-8-(1-oxo-2-methoxy-3-(dimethylamino)-prop-2-enyl)-1,2,3,4-tetrahydronaphthalene (1.2 g).

reactant | 2-(di-n-propylamino)-8-methoxyacetyl-1,2,3,4-tetrahydronaphthalene | 1.0 g | C(CC)N(C1CC2=C(C=CC=C2CC1)C(COC)=O)CCC | C19H29NO2
reactant | tris(dimethylamino)methane | 1.5 ml | CN(C)C(N(C)C)N(C)C | C7H19N3
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(di-n-propylamino)-8-(1-oxo-2-methoxy-3-(dimethylamino)-prop-2-enyl)-1,2,3,4-tetrahydronaphthalene | 1.2 g | C(CC)N(C1CC2=C(C=CC=C2CC1)C(C(=CN(C)C)OC)=O)CCC | C22H34N2O2
